US04509973
An aqueous solution containing 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)3-quinolinecarboxylic acid (12.44 g, 88.42% pure) and isopropylamine (2.83 g) in 11 liters of water to provide the equivalent of from 0.5 to 4 grams per hectare of the 3-quinolinecarboxylic acid, is added to a spray tank containing a 46% aqueous solution of (2-chloroethyl)trimethylammonium chloride containing choline chloride to provide the equivalent of from 920 to 1610 grams per hectare of this active ingredient. Water is then added to provide a total spray volume of from 100 to 400 liters per hectare.

reactant | 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)3-quinolinecarboxylic acid | 12.44 g | C(C)(C)C1(N=C(NC1=O)C1=NC2=CC=CC=C2C=C1C(=O)O)C | C17H17N3O3
reactant | isopropylamine | 2.83 g | C(C)(C)N | C3H9N
solvent | water | 11 liters | O | H2O
product | 3-quinolinecarboxylic acid | N1=CC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
